US09290460B2
1-(3-(4-(Pyrimidin-2-yl)piperazine-1-carbonyl)phenethyl)quinazoline-2,4(1H,3H)-dione
The compound was prepared from 1-(3-carboxyphenethyl)quinazoline-2,4(1H,3H)-dione (prepared from quinazoline-2,4(1H,3H)-dione and methyl 3-(2-bromoethyl)benzoate using a procedure similar to those used for Examples 1 and 2) and 2-(piperazin-1-yl)pyrimidine using a procedure similar to those described for the synthesis of compound of Example 3. 1H NMR (DMSO-d6): 11.54 (s, 1H), 8.37 (d, J=4.8 Hz, 2H), 7.78 (dd, J=7.8 and 1.5 Hz, 1H), 7.73 (t, J=6.9 Hz, 1H), 7.52 (d, J=7.2 Hz, 1H), 7.35-7.22 (m, 5H), 6.66 (t, J=4.7 Hz, 1H), 4.28 (t, J=7.5 Hz, 2H), 3.80-3.20 (m, 8H), 2.95 (t, J=7.4 Hz, 1H). MS: m/z 457.4 [M+H]+.

reactant | 1-(3-carboxyphenethyl)quinazoline-2,4(1H,3H)-dione | C(=O)(O)C=1C=C(CCN2C(NC(C3=CC=CC=C23)=O)=O)C=CC1 | C17H14N2O4
reactant | quinazoline-2,4(1H,3H)-dione | N1C(NC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | methyl 3-(2-bromoethyl)benzoate | BrCCC=1C=C(C(=O)OC)C=CC1 | C10H11BrO2
reactant | 2-(piperazin-1-yl)pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
product | 1-(3-(4-(Pyrimidin-2-yl)piperazine-1-carbonyl)phenethyl)quinazoline-2,4(1H,3H)-dione | N1=C(N=CC=C1)N1CCN(CC1)C(=O)C=1C=C(CCN2C(NC(C3=CC=CC=C23)=O)=O)C=CC1 | C25H24N6O3
